US06703182B1
6.17 g (0.03 mol) of 4-methyl-benzenediazonium tetrafluoroborate (mp 105-110° C.; prepared by nitrosation of p-toluidine with sodium nitrite in aqueous fluoboric acid according to A. Roe, Org. Reactions vol V, 1949,193) are suspended in 60 ml of ethanol. Allyl cyanide (4.0 g; 0.06 mol) and palladium acetate (67 mg; 0.3 mmol) are added, and the light orange suspension is heated gently to 46° C., at which temperature a gentle evolution of nitrogen is visible. The mixture is stirred at the same temperature until the nitrogen evolution ceases (ca 3 h), resulting in a dark brown clear solution. The reaction mixture is poured into 300 ml of cold water and extracted with 2×100 ml of hexane:ethyl acetate 85:15 (v:v). The organic phases are washed with saturated aqueous sodium bicarbonate, water, brine, and dried over magnesium sulfate. The light green solution is concentrated to ca 20 ml by rotary evaporation, and allowed to crystallize in the refrigerator. Filtration yields 2.5 g (53%) of 4-p-tolyl-but-3-enenitrile as very thin, colorless leaflets, mp 60-61° C., consisting of the pure (E) isomer, as determined by 1H-NMR.

reactant | 4-methyl-benzenediazonium tetrafluoroborate | 0.03 mol, 6.17 g | F[B-](F)(F)F.CC1=CC=C(C=C1)[N+]#N
reactant | p-toluidine | NC1=CC=C(C=C1)C | C7H9N
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | Allyl cyanide | 0.06 mol, 4.0 g | C(C=C)C#N | C4H5N
solvent | fluoboric acid | [H+].[B-](F)(F)(F)F
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | palladium acetate | 0.3 mmol, 67 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 300 ml | O | H2O
product | 4-p-tolyl-but-3-enenitrile | 2.5 g, 53% | C1(=CC=C(C=C1)C=CCC#N)C | C11H11N
